US06350892B1
Methyl 2-[4-[3-(tert-butyldiphenylsilyloxy)propyl]phenoxy]-2-methyl-propionate
A solution of 3-(4-hydroxyphenyl)-1-(tert-butyldiphenylsilyloxy)propane (5.00 g, 12.8 mmol and methyl 2-bromo-2-methylpropionate (4.53 g, 25.0 mmol in dry acetonitrile (25 ml) was treated with cesium carbonate (8.3 g, 25.4 mmol and the resulting mixture was heated at 60° C. for 3.5 h. The cooled mixture was diluted with ethyl acetate, washed with water, brine and dried (magnesium sulfate). Evaporation of the solvent and chromatography of the residue on silica gel (elution toluene) gave 5.88 g (93%) of the title material as a clear oil.

reactant | 3-(4-hydroxyphenyl)-1-(tert-butyldiphenylsilyloxy)propane | OC1=CC=C(C=C1)CCCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C25H30O2Si
reactant | methyl 2-bromo-2-methylpropionate | BrC(C(=O)OC)(C)C | C5H9BrO2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 2-[4-[3-(tert-butyldiphenylsilyloxy)propyl]phenoxy]-2-methyl-propionate | 5.88 g, 93% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCC1=CC=C(OC(C(=O)OC)(C)C)C=C1 | C30H38O4Si
